Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUQ abdominal pain  
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ male with a history of IVDU (last 
used
___ years ago, on methadone), depression, anxiety and bipolar
disorder who was transferred from ___ with jaundice and
found to have acute hepatitis. He reports that on ___, he ate
out at a restaurant and upon arriving at home, had sudden onset
of intermittent, sharp right upper quadrant abdominal and
epigastric pain. Later, he noticed dark urine, pale loose stools
and scleral icterus. He went to see his primary care doctor who
got initial lab studies and sent him to ___. 
 
Patient reports that he has ongoing intermittent right upper
quadrant abdominal pain, described as sharp without clear
exacerbating or relieving factors, and with occasional radiation
to the epigastric and back. Has taken ibuprofen ("about ___ 
pills
twice"), and denies recent acetaminophen use. No other new drug
exposures. Reports that his stool has been loose, light gray in
color without blood or mucous, and his urine has been dark. His
wife noticed his eyes were yellow. He notes some headache and
dizziness at the time of symptom onset, but these have since
resolved. 

He has a long standing history of opioid use disorder and 
reports
intravenous drug use from the age of ___, quitting about ___ years
ago. Since that time, he denies further IVDU. He says he has had
annual Hep C screening, as recent as 9 months ago, and these
studies have all been negative. He further denied new sexual
partners (has been with his wife for ___ years) or new tattoos. 
He
has not had any blood transfusion, has not consumed mushrooms or
shellfish, has not swum in rivers or streams, or traveled 
outside
of ___ recently. He has never traveled outside of the
country. 

He further denied a history of chest pain, shortness of breath,
urinary symptoms, hematuria, hematochezia, melena, muscle or
joint pains.

In the ED, initial VS were:  
T 98.0F HR 67 BP 114/79 RR 19 O2 100% RA  

Exam notable for:  

HEENT: Scleral icterus  
Abdominal: Tender to palpation in RUQ. No rebound, no guarding  
Neuro: No asterixis  

Labs showed:  
WBC 5.6 Hgb 12.8 
___: 10.4  PTT: 30.5  INR: 1.0 
ALT:1313 AST:973 AlkPhos:203 TotBili:8.1 
Albumin:3.5  
HBsAg:NEG HBsAb:NEG HBcAb:NEG IgM HAV:NEG  
HCV Ab:POS HCV VL: PND
Lactate:1.2  
ASA:NEG Ethanol:NEG Acetmnp:NEG Bnzodzp:NEG Barbitr:NEG
Tricycl:NEGo  

Imaging: RUQ U/S (OSH), Dupplex abdominal ultrasound
Normal hepatic parenchyma, patent portal vein, no ascites, no
cholelithiasis or acute cholecystitis, non-specific mildly
prominent CBD but appears to taper towards the pelvic hilum. No
portal venous thrombosis, Budd-Chiari. Patent hepatic
vasculature.

Consults:
Hepatology was consulted and finds the patient's presentation
consistent with acute liver injury, potentially secondary to
acute HCV, no evidence to suggest ischemia, Budd-Chiari,
acetaminophen, biliary obstruction. Serologies for autoimmune
hepatitis pending.  

Transfer VS were:  
T 98.6 HR 57 BP 127/81 RR 18 O2 99% RA 

On arrival to the floor, patient reports feeling improved. He
continues to have intermittent abdominal pain, ___ at its worst
and sharp in nature. He notes having his first formed stool,
which was normal in color and his urine is no longer dark. He
currently feels well otherwise, and specifically denied 
headache,
dizziness or confusion.   
 
Past Medical History:
Opiate Use Disorder on Methadone  
Depression  
Anxiety  
Bipolar disorder  
Acid reflux 
 
Social History:
___
Family History:
No family history of liver disease  
 
Physical Exam:
ADMISSION:
VS:  T 98.2 129/77 HR 68 R 18 O2 98 
GENERAL: NAD, lying comfortably in bed  
HEENT: AT/NC, EOMI, PERRL, mild scleral icterus
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, faint diffuse expiratory wheezes, no rales or
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: nondistended, tender to palpation in epigastric region
and RUQ, no tenderness to percussion, no rebound/guarding, no
hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixis

DISCHARGE:
GENERAL: NAD, lying in bed
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB 
ABDOMEN: nondistended, non-tender to palpation, no 
rebound/guarding, no
hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, No asterixis
 
Pertinent Results:
ADMISSION: 
___ 05:18AM BLOOD WBC-5.6 RBC-4.52* Hgb-12.8* Hct-38.5* 
MCV-85 MCH-28.3 MCHC-33.2 RDW-16.2* RDWSD-50.5* Plt ___
___ 06:33AM BLOOD ___ PTT-30.5 ___
___ 05:18AM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-144 
K-4.3 Cl-106 HCO3-26 AnGap-12
___ 05:18AM BLOOD ALT-1313* AST-973* AlkPhos-203* 
TotBili-8.1*
___ 07:14PM BLOOD ALT-1349* AST-962* LD(LDH)-376* 
AlkPhos-198* TotBili-8.3* DirBili-6.9* IndBili-1.4
___ 07:14PM BLOOD Albumin-3.5 Calcium-8.8 Phos-3.5 Mg-1.6
___ 07:10AM BLOOD calTIBC-356 Ferritn-644* TRF-274
___ 07:10AM BLOOD HAV Ab-POS* IgM HAV-NEG
___ 05:18AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 05:18AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 05:18AM BLOOD ___
___ 05:18AM BLOOD IgG-734 IgA-107 IgM-270*
___ 07:10AM BLOOD HIV Ab-NEG
___ 05:18AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:18AM BLOOD Acetmnp-NEG
___ 12:50PM BLOOD HIV1 VL-PND
___ 05:18AM BLOOD HCV VL-6.1*
___ 05:46AM BLOOD Lactate-1.2

DISCHARGE:
___ 06:58AM BLOOD WBC-6.4 RBC-4.74 Hgb-13.5* Hct-40.6 
MCV-86 MCH-28.5 MCHC-33.3 RDW-16.8* RDWSD-51.7* Plt ___
___ 06:58AM BLOOD ___
___ 06:58AM BLOOD Glucose-76 UreaN-12 Creat-0.9 Na-143 
K-4.3 Cl-102 HCO3-31 AnGap-10
___ 06:58AM BLOOD ALT-1045* AST-606* LD(LDH)-290* 
AlkPhos-202* TotBili-6.8*
___ 06:58AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.8

IMAGES:

RUQUS ___
FINDINGS:  
Hepatic parenchyma is within normal limits and the contour of 
the liver is 
smooth, unchanged from prior. 
Doppler evaluation: 
The main portal vein is patent, with flow in the appropriate 
direction. 
Main portal vein velocity is 20 cm/sec. 
Right and left portal veins are patent, with antegrade flow. 
The main hepatic artery is patent, with appropriate waveform. 
Right, middle and left hepatic veins are patent, with 
appropriate waveforms. 
Splenic vein and superior mesenteric vein are patent, with 
antegrade flow. 
IMPRESSION:  
Patent hepatic vasculature. 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of IVDU (last 
used ___ years ago, on methadone), depression, anxiety and 
bipolar disorder who was transferred from ___ with 
jaundice and found to have acute hepatitis.

#Acute Livery Injury
#Hepatitis C
Presented with acute liver injury, transaminitis (1000s), and 
RUQ pain with normal INR and no hepatic encephalopathy. HEP C 
positive AB with Viral Load 6.1. Other workup was negative 
including: acetaminophen, HAV IgM, HbsAg, AMA, ___. 
Ferritin was 644. HIV Ab negative. IgM mildly elevated, most 
likely in the setting of acute inflammation. Hepatology was 
consulted and felt that his liver injury was in the setting of 
acute Hep C infection. He should ___ with the ___ 
for consideration of HCV treatment. Will require Hep B 
immunization in the outpatient setting.

# Opiate Use Disorder on Methadone 
- Continued methadone 50 mg daily, give in liquid form

#Depression
- Continued fluoxetine

#Anxiety 
- Held clonazepam given hepatic clearance
- Started lorazepam

#Bipolar disorder 
- Continued aripiprazole

#Acid reflux
- Continued omeprazole 20mg daily 

TRANSITIONAL ISSUES:
- ___ with the ___ consideration of HCV 
treatment. 
- Will require Hep B immunization in the outpatient setting.
- Switched from clonazepam to lorazepam in the setting of acute 
liver injury, ___ in the outpatient setting ___ 
checked)
- Studies pending at discharge should be followed-up in clinic:
 -HIV 1 Viral Load
 -Microbiology
 -CMV IgG ANTIBODY; CMV IgM ANTIBODY
 -___ VIRUS VCA-IgG AB; EBV EBNA IgG AB; ___ 
VIRUS VCA-IgM AB
 -BLOOD CULTURE

#CODE: Full (presumed) 
#CONTACT: ___ (wife) ___

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 50 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 30 mg PO TID 
3. ClonazePAM 1 mg PO TID 
4. ARIPiprazole 10 mg PO DAILY 
5. FLUoxetine 20 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO TID:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth three times a day Disp 
#*21 Tablet Refills:*0 
2.  Amphetamine-Dextroamphetamine 30 mg PO TID  
3.  ARIPiprazole 10 mg PO DAILY  
4.  FLUoxetine 20 mg PO DAILY  
5.  Methadone 50 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute Hepatitis C 
#Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ because you had inflammation of your 
liver.

WHILE YOU WERE HERE:
- We found that your liver damage was likely due to hepatitis C 
virus
- Your liver blood tests started to improve

WHEN YOU GO HOME:
- Continue all your medications as directed
- ___ with the listed doctors
- Do not take any Tylenol
- Do not take any more Clonazepam, we gave you a prescription 
for lorazepam instead, which is better handled by the liver

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___